US06034086
50 ml of acetonitrile was added to 10.0 g (0.1 mole) of homopiperazine, 2.9 g (0.025 mole) of 2-chloropyrimidine, 6.9 g (0.05 mole) of potassium carbonate and a catalytic amount of potassium iodide, and the mixture was refluxed under heating for 11 hours. The mixture was cooled to room temperature and then filtered, the filtrate obtained was concentrated under reduced pressure, and the residue was applied to silica gel column chromatography (eluent; a chloroform:methanol=8:2 mixed solution) to obtain 2.14 g of 1-(2-pyrimidyl)homopiperazine as a pale yellow liquid.

reactant | homopiperazine | 0.1 mole, 10.0 g | N1CCNCCC1 | C5H12N2
reactant | 2-chloropyrimidine | 0.025 mole, 2.9 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 0.05 mole, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(2-pyrimidyl)homopiperazine | 2.14 g | N1=C(N=CC=C1)N1CCNCCC1 | C9H14N4
